US07737166B2
Azetidine-3-carbonyldimethylamide hydrochloride (I-145)
1-Benzhydrylazetidine-3-carbonyldimethylamide (I-144) (0.24 g, 0.82 mmol) was dissolved in ethanol (10 ml), then 1 N hydrochloric acid (0.90 m, 0.90 mmol) and 10% palladium-carbon (containing about 50% water, 0.10 g) were added, followed by stirring under hydrogen atmosphere for 16 hours. The catalyst was removed by filtration, the solvent was evaporated away under reduced pressure to obtain a mixture containing the entitled compound (0.25 g). This was used in the next reaction as it was.

reactant | 1-Benzhydrylazetidine-3-carbonyldimethylamide | 0.82 mmol, 0.24 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)C(=O)C[N-]C
reactant | hydrochloric acid | 0.90 mmol, 1 N | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.10 g | [C].[Pd]
product | Azetidine-3-carbonyldimethylamide hydrochloride | Cl.N1CC(C1)C(=O)C[N-]C | InChI=1S/C6H11N2O.ClH/c1-7-4-6(9)5-2-8-3-5;/h5,8H,2-4H2,1H3;1H/q-1;
